US09062032B2
To a mixture of 16.5 g of 1-(4-nitrophenyl)ethanone, 16.4 g of methyl 4-formylbenzoate and 100 mL of ethanol was added dropwise 4.0 mL of piperidine at room temperature, followed by heating under reflux for 8 hours. The precipitate was collected by filtration, thereby obtaining 24.6 g of a crude product. The crude product was suspended in 100 mL of ethanol, followed by heating under reflux for 6 hours. The precipitate was collected by filtration, thereby obtaining 24.0 g of methyl 4-[3-(4-nitrophenyl)-3-oxoprop-1-en-1-yl]benzoate.

reactant | 1-(4-nitrophenyl)ethanone | 16.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | methyl 4-formylbenzoate | 16.4 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | piperidine | 4.0 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 4-[3-(4-nitrophenyl)-3-oxoprop-1-en-1-yl]benzoate | 24.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C=CC1=CC=C(C(=O)OC)C=C1)=O | C17H13NO5
